US09029371B2
To a solution of 4-benzyl-6-(3-chloro-4-hydroxy-phenyl)-morpholin-3-one (13.05 g; 39.0 mmol) in THF (600 mL) was added portionwise LiAlH4 (4.44 g; 117.04 mmol) at 0° C. The resulting mixtures was allowed to warm to RT and stirred overnight. Subsequently, the mixture was cooled to 0° C., and water (4.5 mL), a 2M aqueous NaOH-solution (9.0 mL) and water (9.0 mL) were added consecutively. Thereafter the mixture was stirred for 1 h. The formed precipitate was removed by filtration over kieselguhr, and washed with EtOAc. The organic solution was concentrated in vacuo, and the residue purified by column chromatography (SiO2, CH2Cl2/MeOH 98:2) to afford 4-(4-benzyl-morpholin-2-yl)-2-chloro-phenol (9.10 g)

reactant | 4-benzyl-6-(3-chloro-4-hydroxy-phenyl)-morpholin-3-one | 39.0 mmol, 13.05 g | C(C1=CC=CC=C1)N1C(COC(C1)C1=CC(=C(C=C1)O)Cl)=O | C17H16ClNO3
reactant | LiAlH4 | 117.04 mmol, 4.44 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 4.5 mL | O | H2O
reactant | NaOH | 2M, 9.0 mL | [OH-].[Na+]
reactant | water | 9.0 mL | O | H2O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-(4-benzyl-morpholin-2-yl)-2-chloro-phenol | 9.10 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=C(C=C1)O)Cl | C17H18ClNO2
